US06949648B2
4-Chloro-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline
A solution of 2-[[1-(2-pyridinyl)-1H-pyrazol-5-yl]amino]benzoic acid (62.0 g, 0.221 mol) in phosphorous oxychloride (166 g, 1.08 mol) was heated under reflux for 1 hour. The solution was allowed to cool to room temperature and poured into water. The solution was neutralized by addition of a sodium hydroxide solution, and the organic matter was extracted with chloroform. The extract was washed with saturated brine and water, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (chloroform) to give the title compound (47.4 g, 76% yield).

reactant | 2-[[1-(2-pyridinyl)-1H-pyrazol-5-yl]amino]benzoic acid | 0.221 mol, 62.0 g | N1=C(C=CC=C1)N1N=CC=C1NC1=C(C(=O)O)C=CC=C1 | C15H12N4O2
reactant | phosphorous oxychloride | 1.08 mol, 166 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 4-Chloro-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 47.4 g, 76% yield | ClC1=C2C(=NC3=CC=CC=C13)N(N=C2)C2=NC=CC=C2 | C15H9ClN4
